US06878714B2
To 2-tert-butyl-5-nitrophenol (1.01 g) and K2CO3 (1.72 g) was added acetone (35 ml) and H2O (10.5 mL), then 1-(2-chloroethyl)piperidine HCl (1.909 g) and TBAI (153 mg). The mixture was stirred at reflux overnight. Additional K2CO3 (850 mg) and 1-(2-chloroethyl)-piperidine HCl (950 mg) were added and the mixture was heated at reflux for 6 h. The mixture was concentrated in vacuo to an aqueous layer which was acidified with 2N HCl and extracted with EtOAc. The aqueous layer was basified with 6N NaOH and washed with CH2Cl2 (3×). The combined organic layers were washed with brine/1N NaOH and dried over Na2SO4. Washed the EtOAc layer with 2N NaOH/brine and dried over Na2SO4. The crude material was purified by silica gel column chromatography with 15% EtOAc/Hexanes to yield 1-[2-(2-tert-butyl-5-nitro-phenoxy)-ethyl]-piperidine as a light tan solid. (M+1)=307.3.

reactant | 2-tert-butyl-5-nitrophenol | 1.01 g | C(C)(C)(C)C1=C(C=C(C=C1)[N+](=O)[O-])O | C10H13NO3
reactant | K2CO3 | 1.72 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetone | 35 ml | CC(=O)C | C3H6O
reactant | 1-(2-chloroethyl)piperidine HCl | 1.909 g | Cl.ClCCN1CCCCC1
reactant | K2CO3 | 850 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(2-chloroethyl)-piperidine HCl | 950 mg | Cl.ClCCN1CCCCC1
catalyst | TBAI | 153 mg | CCCC[N+](CCCC)(CCCC)CCCC.[I-]
solvent | H2O | 10.5 mL | O | H2O
product | 1-[2-(2-tert-butyl-5-nitro-phenoxy)-ethyl]-piperidine | C(C)(C)(C)C1=C(OCCN2CCCCC2)C=C(C=C1)[N+](=O)[O-] | C17H26N2O3
